US06737435B1
(iii) Ethyl-N-(3,4-dichlorobenzyl)-4-chloro-5-methoxyindole-2-carboxylate
Sodium hydride (60 mg) was added to a solution of ethyl-4-chloro-5-methoxyindole-2-carboxylate (250 mg), 3,4-dichlorobenzylchloride (0.21 ml) and tetrabutylammoniumiodide (3 mg) in DMF at ambient temperature under an inert atmosphere. The reaction was stirred at ambient temperature for 18 hours then partitioned between ethylacetate (30 ml) and water(30 ml). The organic phase was dried (MgSO4), concentrated under vacuo and the residue purified by column chromatography using isohexane-15% ethylacetate as eluent to yield the product as a white solid (196 mg,48%) NMR: δ (CDCl3) 1.39 (t, 3H), 3.93 (s, 3H), 4.32 (q, 2H), 5.73(s, 2H), 6.84 (dd, iH), 7.06-7.16 (m, 3H), 7.31 (d, 1H), 7.42 (s, 1H)

reactant | Sodium hydride | 60 mg | [H-].[Na+]
reactant | ethyl-4-chloro-5-methoxyindole-2-carboxylate | 250 mg | C(C)OC(=O)C=1NC2=CC=C(C(=C2C1)Cl)OC | C12H12ClNO3
reactant | 3,4-dichlorobenzylchloride | 0.21 ml | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
catalyst | tetrabutylammoniumiodide | 3 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | CN(C)C=O | C3H7NO
product | Ethyl-N-(3,4-dichlorobenzyl)-4-chloro-5-methoxyindole-2-carboxylate | 196 mg, 48% | C(C)OC(=O)C=1N(C2=CC=C(C(=C2C1)Cl)OC)CC1=CC(=C(C=C1)Cl)Cl | C19H16Cl3NO3
